US07582651B2
(2E)-3-{1-[bis(4-fluorophenyl)methyl]-3-cyano-4,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-2-yl}-N-(2,2-dimethyltetrahydro-2H-pyran-4-yl)prop-2-enamide
To a solution of (2E)-3-{1-[bis(4-fluorophenyl)methyl]-3-cyano-4,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-2-yl}prop-2-enoic acid (250 mg, 0.570 mmol) in THF (2.5 ml) were added DMF (0.025 ml) and oxalylchloride (0.060 ml, 0.680 mmol), the mixture was stirred at room temperature for 1 hour and the solvent was distilled off under reduced pressure. The residue was added under ice-cooling to a solution of morpholine (0.0985 ml, 1.13 mmol), triethylamine (0.314 ml, 2.26 mmol) and THF (2.5 ml), and the mixture was stirred under ice-cooling for 2 hours and at room temperature for 12 hours. The reaction solution was poured into water and extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent distilled off under reduced pressure. The residue was recrystallized from hexane and ethyl acetate to give the objective product as a solid material.

reactant | (2E)-3-{1-[bis(4-fluorophenyl)methyl]-3-cyano-4,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-2-yl}prop-2-enoic acid | 0.570 mmol, 250 mg | FC1=CC=C(C=C1)C(N1C(=C(C=2C1=NC(=CC2C)C)C#N)/C=C/C(=O)O)C2=CC=C(C=C2)F | C26H19F2N3O2
reactant | oxalylchloride | 0.680 mmol, 0.060 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | morpholine | 1.13 mmol, 0.0985 ml | N1CCOCC1 | C4H9NO
reactant | triethylamine | 2.26 mmol, 0.314 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 2.5 ml | C1CCOC1 | C4H8O
solvent | THF | 2.5 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | DMF | 0.025 ml | CN(C)C=O | C3H7NO
product | (2E)-3-{1-[bis(4-fluorophenyl)methyl]-3-cyano-4,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-2-yl}-N-(2,2-dimethyltetrahydro-2H-pyran-4-yl)prop-2-enamide | FC1=CC=C(C=C1)C(N1C(=C(C=2C1=NC(=CC2C)C)C#N)/C=C/C(=O)NC2CC(OCC2)(C)C)C2=CC=C(C=C2)F | C33H32F2N4O2
